US05336821
The first reactor effluent stream enters a heat exchanger 44. In the heat exchanger 44, the first reactor effluent stream exchanges heat indirectly with a flashed depropanizer bottoms stream from a line 42. The cooled first reactor effluent stream passes through a line 26 and is admixed with a mixture of propane and propylene that enters the process in a line 22. This produces an alkylation zone feed stream carried by a line 28. This stream may be heated in a heat exchanger or a heater, which is not shown, and enters a second reactor 30. The feed stream contacts a zeolite catalyst maintained at alkylation-promoting conditions to effect the reaction of at least a major portion of the propylene with benzene to form cumene. A second reactor effluent stream comprising benzene, cumene, and poly-alkylated hydrocarbons exits the second reactor 30 in a line

reactant | propane | CCC | C3H8
reactant | propylene | C=CC | C3H6
reactant | benzene | C1=CC=CC=C1 | C6H6
product | cumene | C1(=CC=CC=C1)C(C)C | C9H12
